US05216167
(c) Methyl 2-methoxy-4-[N-(α-phenyl-2-piperidino-benzyl)aminocarbonylmethyl]-benzoate
Prepared from α-phenyl-2-piperidino-benzylamine and 3-methoxy-4-methoxycarbonyl-phenylacetic acid.

reactant | α-phenyl-2-piperidino-benzylamine | C1(=CC=CC=C1)C(C1=C(C=CC=C1)N1CCCCC1)N | C18H22N2
reactant | 3-methoxy-4-methoxycarbonyl-phenylacetic acid | COC=1C=C(C=CC1C(=O)OC)CC(=O)O | C11H12O5
product | Methyl 2-methoxy-4-[N-(α-phenyl-2-piperidino-benzyl)aminocarbonylmethyl]-benzoate | COC1=C(C(=O)OC)C=CC(=C1)CC(=O)NC(C1=C(C=CC=C1)N1CCCCC1)C1=CC=CC=C1 | C29H32N2O4
